US06232467B1
To a stirred solution of glyoxylic acid monohydrate (92 mg, 1 mmol) in dichloromethane (7 mL) was added aminodiphenylmethane (183 mg, 1 mmol), followed by phenylboronic acid (122 mg, 1 mmol). After the flask was purged with argon and sealed, the reaction mixture was stirred vigorously at room temperature for 48 h. The resulting precipitate was isolated by filtration, washed with dichloromethane (10 mL) and purified by ion-exchange chromatography (Dowex 50W-X8) to give pure (±)-N-(diphenylmethyl)-α-phenylglycine (266 mg, 84% yield).

reactant | glyoxylic acid monohydrate | 1 mmol, 92 mg | O.C(C=O)(=O)O
reactant | aminodiphenylmethane | 1 mmol, 183 mg | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
reactant | phenylboronic acid | 1 mmol, 122 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | (±)-N-(diphenylmethyl)-α-phenylglycine | 266 mg, 84% yield | C1(=CC=CC=C1)C(NC(C(=O)O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H19NO2
